US04654362
To a stirred solution of 1 part of (A+A+)-α,α'-[iminobis(methylene)]bis[3,4-dihydro-2H-1-benzopyran-2-methanol] in 16 parts of 2-propanol were added dropwise 8 parts of 2-propanol saturated with hydrogen bromide. The product was filtered off and crystallized from 2-propanol. The product was filtered off and dried, yielding 0.8 parts of (A+A+)-α,α'-[iminobis(methylene)]bis[3,4-dihydro-2H-1-benzopyran-2-methanol]hydrobromide; mp. 236.5° C.; [α]589 =+114.53° (c=1% CH3OH) (compound 142).

reactant | α,α'-[iminobis(methylene)]bis[3,4-dihydro-2H-1-benzopyran-2-methanol] | N(CC(O)C1OC2=C(CC1)C=CC=C2)CC(O)C2OC1=C(CC2)C=CC=C1 | C22H27NO4
reactant | hydrogen bromide | Br | BrH
solvent | 2-propanol | CC(C)O | C3H8O
product | α,α'-[iminobis(methylene)]bis[3,4-dihydro-2H-1-benzopyran-2-methanol]hydrobromide | Br.N(CC(O)C1OC2=C(CC1)C=CC=C2)CC(O)C2OC1=C(CC2)C=CC=C1 | InChI=1S/C22H27NO4.BrH/c24-17(21-11-9-15-5-1-3-7-19(15)26-21)13-23-14-18(25)22-12-10-16-6-2-4-8-20(16)27-22;/h1-8,17-18,21-25H,9-14H2;1H
